US04262128
To a solution of sodium (308 mg) in ethanol (40 ml) was added 5-(6-ethoxycarbonylhexyl)-1-octylhydantoin, followed by butyl bromide (1.8 g), and the solution was refluxed for 24 hours. The solvent was evaporated, water was added and the insoluble oil was extracted with ether. The washed and dried extract was evaporated to give 3-butyl-5-(6-ethoxycarbonylhexyl)-1-octyl hydantoin.

reactant | sodium | 308 mg | [Na] | Na
reactant | 5-(6-ethoxycarbonylhexyl)-1-octylhydantoin | C(C)OC(=O)CCCCCCC1C(NC(N1CCCCCCCC)=O)=O | C20H36N2O4
reactant | butyl bromide | 1.8 g | C(CCC)Br | C4H9Br
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-butyl-5-(6-ethoxycarbonylhexyl)-1-octyl hydantoin | C(CCC)N1C(N(C(C1=O)CCCCCCC(=O)OCC)CCCCCCCC)=O | C24H44N2O4
